US07514566B2
To a 250 mL round-bottom flask, was added 5-bromoindolin-2-one (2 g, 9 mmol), N,N′-tetramethylethylenediamine (4 mL, 28 mmol) and 70 mL of THF. The reaction mixture was cooled to −78° C. 2.5 M n-butyllithium in hexanes (8.4 mL, 21 mmol) was then added slowly to the reaction mixture. The reaction mixture was stirred for 15 hours, 5 mL of saturated NH4Cl solution was added to the reaction mixture, and then the reaction mixture was extracted twice with 30 mL of EtOAc. The combined organic layers were concentrated and purified with silica gel column chromatography, eluting with 0-40% EtOAc/hexane to give 5-bromo-3-methylindolin-2-one (0.37 g, 17% yield). MS m/z: 227 (M+1).

reactant | 5-bromoindolin-2-one | 9 mmol, 2 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | N,N′-tetramethylethylenediamine | 28 mmol, 4 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-methylindolin-2-one | 0.37 g, 17% yield | BrC=1C=C2C(C(NC2=CC1)=O)C | C9H8BrNO
